US07179823B1
A mixture of 5-phenyl-2-pyridylmethanol (1.98 g), thionyl chloride (1.6 ml) and toluene (30 ml) was stirred at 70° C. for 2 hours. After the reaction mixture was concentrated, saturated aqueous sodium bicarbonate solution was added to the residue, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. A mixture of the residue, 4-hydroxybenzyl alcohol (1.37 g), potassium carbonate (3.18 g) and N,N-dimethylformamide (50 ml) was stirred at 80° C. overnight. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography to obtain 4-(5-phenyl-2-pyridylmethoxy)benzyl alcohol (2.69 g, yield 86%) as colorless crystals from the fraction eluted with ethyl acetate-hexane (1:1, volume ratio). This was recrystallized from ethyl acetate-hexane. Melting point: 159–160° C.

reactant | 5-phenyl-2-pyridylmethanol | 1.98 g | C1(=CC=CC=C1)C=1C=CC(=NC1)CO | C12H11NO
reactant | thionyl chloride | 1.6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(5-phenyl-2-pyridylmethoxy)benzyl alcohol | 2.69 g, yield 86% | C1(=CC=CC=C1)C=1C=CC(=NC1)COC1=CC=C(CO)C=C1 | C19H17NO2
